US07417144B2
C 5,6,7,8-Tetrahydro-[1,7]naphthyridine-6-carboxylic acid[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenyl]-amide
A solution of 7-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-7,8-dihydro-5H-[1,6]naphthyridine-6-carboxylic acid tert-butyl ester (310 mg) in 8 ml dichloromethane and 1.53 ml TFA was stirred for 4 hrs at rt. The reaction mixture was poured onto 1M NaOH/ice and extracted twice with dichloromethane. The organic layers were dried over magnesium sulfate, evaporated and purified by chromatography (silica gel, AcOEt/methanol 9:1) to deliver the title compound as a light yellow solid (151 mg). MS: 365.5 (M+H)+

reactant | 7-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-7,8-dihydro-5H-[1,6]naphthyridine-6-carboxylic acid tert-butyl ester | 310 mg | C(C)(C)(C)OC(=O)N1CC=2C=CC=NC2CC1C(NC1=C(C=C(C=C1)N1C(C=CC=C1)=O)F)=O | C25H25FN4O4
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | TFA | 1.53 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5,6,7,8-Tetrahydro-[1,7]naphthyridine-6-carboxylic acid[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenyl]-amide | FC1=C(C=CC(=C1)N1C(C=CC=C1)=O)NC(=O)C1CC=2C=CC=NC2CN1 | C20H17FN4O2
